US07544685B2
1a, (+)-(S)-3-{2-[4-(1H-Indol-5-yl)-piperazin-1-yl]-ethyl}-2,3-dihydro-1H-indole-1-carboxylic acid amide
A mixture of 5-(piperazin-1-yl)-1H-indole (3.37 g, 0.017 mol), (S)-3-(2-bromoethyl)-2,3-dihydro-1H-indole-1-carboxylic acid amide (3.0 g, 0.11 mol), potassium carbonate (2.31 g, 0.017 mol) in butanone (450 mL) was boiled under reflux for 12 h. The mixture was filtered, concentrated in vacuo, and the residue was purified by flash chromatography (ethyl acetate/ethanol/triethylamine 70:25:5). The purified residue was precipitated from ethyl acetate to give the title compound as a white solid (3.0 g). Assignment of the optical rotation was done in dimethyl sulfoxide.

reactant | 5-(piperazin-1-yl)-1H-indole | 0.017 mol, 3.37 g | N1(CCNCC1)C=1C=C2C=CNC2=CC1 | C12H15N3
reactant | (S)-3-(2-bromoethyl)-2,3-dihydro-1H-indole-1-carboxylic acid amide | 0.11 mol, 3.0 g | BrCC[C@@H]1CN(C2=CC=CC=C12)C(=O)N | C11H13BrN2O
reactant | potassium carbonate | 0.017 mol, 2.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 450 mL | CC(CC)=O | C4H8O
product | (+)-(S)-3-{2-[4-(1H-Indol-5-yl)-piperazin-1-yl]-ethyl}-2,3-dihydro-1H-indole-1-carboxylic acid amide | 3.0 g | N1C=CC2=CC(=CC=C12)N1CCN(CC1)CC[C@@H]1CN(C2=CC=CC=C12)C(=O)N | C23H27N5O
